Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Speech difficulties.

 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is an ___ year old woman with an unclear past
medical history who presents today for difficulty speaking.
History is obtained from her son.

He states that last night she was with him, his wife and his two
kids until about 6pm. After he left, she called him "not feeling
well" and he noted that she was having some difficulty with
short-term memory of the holiday weekend, and difficulty finding
words on occasion (he states "trouble accessing words"). He 
notes
that she does have a history of dementia, and thought maybe she
was tired and advised her to get some rest. When he called her
again this morning, her speech was much worse and so he called
EMS to get her to the ED. Glucose was 123 in the field.

The patient herself has difficulty expressing the story, and
keeps talking about her friend's ___ birthday party (which she
states was last night and she had one "sip" of alcohol at). It 
is
not clear when she thinks her speech difficulty began, last 
night
or this morning.

At baseline, she does live at home, but gets help from her 
sister
who does her groceries. She has her medications delivered to her
door by ___, and gets a taxi service to all of her medical
appointments. Her husband died one year ago.

On neuro ROS, the pt denies headache, loss of vision, blurred
vision, diplopia, dysarthria, dysphagia, lightheadedness,
vertigo, tinnitus or hearing difficulty. Denies difficulties
producing or comprehending speech.  Denies focal weakness,
numbness, parasthesiae. No bowel or bladder incontinence or
retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
- TIA in ___ ___ years ago (lost memory and couldn't speak,
details unclear)
- Kidney disease (per son)
- HTN
- HLD
- Per son no known a-fib
- Glaucoma (blind in one eye)
- Arthritis

 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Physical Exam:
Vitals: 97.9 74 153/50 22 100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple
Pulmonary: Lungs CTA bilaterally
Cardiac: RRR
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, awake. Unable to relate history.
Perseverative, attentive to examiner. Is able to speak in
occasional sentences up to 12 words long, but has significant
trouble with most nouns, and most sentences trail off at about 5
words due to word-finding difficulty. Unable to recall recent
history from the weekend, cannot state month even when given
multiple choice, states month and day of birthday but not year,
cannot state address. Names watch after 5 minute delay, unable 
to
name "thumb" or "nail." Repetition intact. Can show two fingers
on left hand after a delay. No neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm and brisk. VFF to confrontation. 
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk. Increased tone throughout w paratonia. VERY
slight R pronation, no drift. Bilateral intention tremor. No
asterixis noted. 
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  4+*   5*  4+*  5     5     5   5
R  5    ___   ___  4+*   5*  4+*  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs: 3+ RUE, 2+ LUE, RLE and LLE
Plantar response was extensor on the right, downgoing on the
left.

-Coordination: +intention tremor, no dysmetria.

-Gait: Deferred.
=============
Discharge exam:

MS: Improved completely oriented. Able to name repeat with 
recall ___ w/o prompting.
Otherwise unchanged.

 
Pertinent Results:
Labs:

___ 05:50AM BLOOD WBC-6.6 RBC-3.60* Hgb-11.6 Hct-35.5 
MCV-99* MCH-32.2* MCHC-32.7 RDW-12.9 RDWSD-46.5* Plt ___
___ 09:45PM BLOOD WBC-5.6 RBC-3.11* Hgb-10.3* Hct-30.8* 
MCV-99* MCH-33.1* MCHC-33.4 RDW-13.1 RDWSD-46.7* Plt ___
___ 05:40AM BLOOD WBC-5.5 RBC-3.18* Hgb-10.2* Hct-31.6* 
MCV-99* MCH-32.1* MCHC-32.3 RDW-13.1 RDWSD-47.4* Plt ___
___ 11:57AM BLOOD WBC-6.4 RBC-3.91 Hgb-12.7 Hct-38.9 
MCV-100* MCH-32.5* MCHC-32.6 RDW-12.9 RDWSD-46.4* Plt ___
___ 11:57AM BLOOD Neuts-66.2 ___ Monos-6.8 Eos-0.8* 
Baso-1.2* Im ___ AbsNeut-4.25 AbsLymp-1.59 AbsMono-0.44 
AbsEos-0.05 AbsBaso-0.08
___ 05:50AM BLOOD Glucose-99 UreaN-17 Creat-1.4* Na-142 
K-4.3 Cl-109* HCO3-22 AnGap-15
___ 05:40AM BLOOD Glucose-94 UreaN-17 Creat-1.4* Na-142 
K-4.3 Cl-111* HCO3-24 AnGap-11
___ 11:57AM BLOOD Glucose-134* UreaN-21* Creat-1.6* Na-140 
K-4.7 Cl-103 HCO3-20* AnGap-22*
___ 05:40AM BLOOD ALT-13 AST-32 LD(LDH)-158 CK(CPK)-332* 
AlkPhos-73 TotBili-0.5
___ 05:40AM BLOOD CK-MB-8 cTropnT-<0.01
___ 11:57AM BLOOD cTropnT-<0.01
___ 05:50AM BLOOD Calcium-9.3 Phos-3.5 Mg-2.1
___ 05:40AM BLOOD Albumin-3.2* Calcium-8.6 Phos-3.5 Mg-2.1 
Cholest-143
___ 11:57AM BLOOD Calcium-10.0 Phos-2.4* Mg-2.1
___ 09:45PM BLOOD Hapto-141
___ 05:40AM BLOOD %HbA1c-5.6 eAG-114
___ 05:40AM BLOOD Triglyc-66 HDL-48 CHOL/HD-3.0 LDLcalc-82
___ 05:40AM BLOOD TSH-1.5
___ 11:57AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

Urine:
___ 03:19PM URINE Color-Yellow Appear-Clear Sp ___
___ 03:19PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-NEG
___ 03:19PM URINE RBC-<1 WBC-<1 Bacteri-FEW Yeast-NONE 
Epi-<1
___ 03:19PM URINE Mucous-RARE

Imaging:
CT Head 
1. No acute intracranial abnormalities. 

MRI/MRA:
1. No acute infarction and no evidence for other acute 
intracranial 
abnormalities. 
2. Mineralization without gross calcification within the basal 
ganglia, with high T1 signal and low signal on gradient echo 
images, which may be associated with chronic liver disease.  
Please correlate clinically. 
3. Evaluation of the V3 segments of the vertebral arteries is 
technically limited due to the 2D time-of-flight technique of 
the neck MRA, and the brain MRA is mildly limited by artifact.  
Visualized cervical and intracranial arteries demonstrate no 
evidence for flow-limiting stenosis. 
4. Probable fenestration of the proximal basilar artery, a 
normal variant. 
5. Extensive spondylosis with multilevel spondylolisthesis is 
again 
demonstrated in the included upper cervical spine. 
6. Enlarged, multinodular thyroid is again seen. 

ECHO:
Small ASD vs. stretched PFO with left to right shunting at rest. 
Borderline normal left ventricular function. Mild to moderate 
aortic regurgitation. Mild posterior leaflet MVP with mild 
mitral regurgitation.  

 
Brief Hospital Course:
___ is an ___ year old woman with HTN, HLD and a 
question of remote TIA who presented with speech and memory 
difficulties with acute onset. Her initial exam notable for 
perseveration, inattention, recent and distant memory loss in 
addition to aphasia, her reflexes were brisk with an upgoing toe 
on the right. 

___ showed small vessel disease appearing grossly unchanged 
from CT several years ago. MRI/MRA with: "No acute infarction 
and no evidence for other acute intracranial 
abnormalities. Mineralization without gross calcification within 
the basal ganglia, with high T1 signal and low signal on 
gradient echo images, which may be associated with chronic liver 
disease. Evaluation of the V3 segments of the vertebral arteries 
is technically limited due to the 2D time-of-flight technique of 
the neck MRA, and the brain MRA is mildly limited by artifact. 
Visualized cervical and intracranial arteries demonstrate no 
evidence for flow-limiting stenosis. Probable fenestration of 
the proximal basilar artery, a normal variant. Extensive 
spondylosis with multilevel spondylolisthesis is again 
demonstrated in the included upper cervical spine. Enlarged, 
multinodular thyroid is again seen." 
 
Stroke risk factors assessed and found normal. Echo with small 
PFO and borderline normal EF. She was started on ASA 81mg PO 
daily. Will be discharged with an order for 3 day outpatient EEG 
to r/o seizure episodes.

Transitional issues: 
1. Outpatient 3 day EEG to assess for seizures.
2. Recommend for PCP to assess multinodular thyroid.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 300 mg PO BID 
2. TraMADOL (Ultram) 50 mg PO BID:PRN pain 
3. Pravastatin 10 mg PO QPM 
4. Metoprolol Tartrate 50 mg PO BID 
5. Duloxetine 60 mg PO DAILY 
6. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 

 
Discharge Medications:
1. Duloxetine 60 mg PO DAILY 
2. Metoprolol Tartrate 50 mg PO BID 
3. Aspirin 81 mg PO DAILY 
4. Gabapentin 300 mg PO BID 
5. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
6. Pravastatin 10 mg PO QPM 
7. TraMADOL (Ultram) 50 mg PO BID:PRN pain 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
1. Cognitve decline

Secondary:
1. Hypertension
2. Hyperlipidemia
3. Small vessel disease   

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,

___ were admitted to the neurology service with speech and 
memory difficulties concerning for a stroke. We have imaged your 
brain and found ___ to have no acute abnormalities. We have 
checked your heart with an echocardiogram and found ___ to have 
a very small communication between the chambers of your heart, 
otherwise your function is normal.

We have checked your risk factors for stroke which were normal. 
We have monitored ___ and found ___ improved. We will order a 
brain wave study called an EEG to assess for seizures which ___ 
can have as an outpatient. 

It has been a pleasure taking care of ___, please do not 
hesitate to call with questions.

Your ___ Team
 
Followup Instructions:
___